US07666888B2
5-(4-Methylphenyl)-4-{[3-(phenylsulfonyl)pyrrolidin-1-yl]carbonyl}isoxazole
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and 3-(benzenesulfonyl)pyrrolidine hydrochloride (12.7 mg, 0.051 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (11.5 mg). Calcd for C21H20N2O4S: 396.1144, found 396.1142.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | 3-(benzenesulfonyl)pyrrolidine hydrochloride | 0.051 mmol, 12.7 mg | Cl.C1(=CC=CC=C1)S(=O)(=O)C1CNCC1
product | 5-(4-Methylphenyl)-4-{[3-(phenylsulfonyl)pyrrolidin-1-yl]carbonyl}isoxazole | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CC(CC1)S(=O)(=O)C1=CC=CC=C1 | C21H20N2O4S
